US06608030B1
b) Boc-Leucinal
The Weinreb amide of BocLeucine was dissolved in dry Et2O and added by cannula to an Et2O suspension of an equimolar amount of LiAlH4 at 0° C. After stirring for one hour, the reaction flask was removed from 0° C. and allowed to warm to room temperature. After a reaction time of 80 minutes, an aqueous solution of KHSO4, (2 equiv. of KHSO4, 5 ml H2O/mmnol of Weinreb amide) was added slowly while stirring. The aqueous phase was extracted with Et2O and the confined Et2O phases were washed with 3N HCl, saturated NaHCO3, and saturated NaCl. After drying (MgSO4,) and rotary evaporation, the oil was found to contain one compound by thin layer chromatography.

reactant | BocLeucine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | KHSO4 | 2 equiv. | OS(=O)(=O)[O-].[K+]
reactant | H2O | 5 ml | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | Boc-Leucinal | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C=O | C11H21NO3
